US04481357
7-amino-3(5-methyl-1,3,4-thiadiazol-2-yl) thiomethyl-3-cephem-4-carboxylic acid (7-ACA-TD)
A mixture of 30 g of 5-methyl-2-mercapto,1,3,4-thiadiazole, 32 ml of triethylamine and 5 g of pivalic acid in 2 liters of water was heated to 82° C. Thereafter there was added in one shot 40 g of 7-aminocephalosporanic acid (92%) and 5 g of pivalic acid were added in one shot to the resulting solution. Precipitation started after a few minutes and increased with time. After 30 minutes of vigorous stirring at the same temperature, the mixture was cooled to 65° C. The solid was isolated by filtering, washed with water and acetone to give 35 g of the compound of the title. The liquors were cooled to 20° C. and filtered and gave a further 5 g fraction, with an overall yield of 87%. The infrared and proton magnetic resonance spectra are consistent with the technically pure product.

reactant | 5-methyl-2-mercapto,1,3,4-thiadiazole | 30 g | CC1=NN=C(S1)S | C3H4N2S2
reactant | triethylamine | 32 ml | C(C)N(CC)CC | C6H15N
reactant | pivalic acid | 5 g | C(C(C)(C)C)(=O)O | C5H10O2
reactant | 7-aminocephalosporanic acid | 40 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | pivalic acid | 5 g | C(C(C)(C)C)(=O)O | C5H10O2
solvent | water | 2 liters | O | H2O
product | 7-amino-3(5-methyl-1,3,4-thiadiazol-2-yl) thiomethyl-3-cephem-4-carboxylic acid | 35 g, yield of 87% | NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O | C11H12N4O3S3
